US07166598B2
28% Sodium methoxide in methanol (50 ml) was added to a solution of 3-fluoro-4-(trifluoromethyl)benzoic acid (20.8 g) in dimethylsulfoxide (200 ml). The mixture was stirred at 90° C. for 3.5 hours. After cooling at room temperature, the resulting mixture was poured into ice-water (1.5 l) and made acidic with diluted hydrochloric acid. After being stirred for 30 minutes, the resulting precipitates were collected by filtration and air-dried to give a colorless powder of 3-methoxy-4-(trifluoromethyl)benzoic acid (22.95 g).

reactant | Sodium methoxide | C[O-].[Na+]
reactant | 3-fluoro-4-(trifluoromethyl)benzoic acid | 20.8 g | FC=1C=C(C(=O)O)C=CC1C(F)(F)F | C8H4F4O2
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
solvent | dimethylsulfoxide | 200 ml | CS(=O)C | C2H6OS
product | 3-methoxy-4-(trifluoromethyl)benzoic acid | 22.95 g | COC=1C=C(C(=O)O)C=CC1C(F)(F)F | C9H7F3O3
